US05424183
Methyl 4-docosyloxybenzoate:
This compound was prepared from methyl 4-hydroxybenzoate and docosylbromide (C22H45Br) in an analogous manner to that described above for methyl 4-octadecyloxybenzoate.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | docosylbromide | C(CCCCCCCCCCCCCCCCCCCCC)Br | C22H45Br
reactant | methyl 4-octadecyloxybenzoate | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C26H44O3
product | Methyl 4-docosyloxybenzoate | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C30H52O3
